US07868197B2
3-Bromo-4,5-dimethyl-4,5-dihydro-6H-cyclopenta[b]thiophen-6-one
To a suspension of 29.3 g (220 mmol) of AlCl3 in 40 ml of chloroform a solution of 16.4 g (100 mmol) of 4,5-dimethyl-4,5-dihydro-6H-cyclopenta[b]thiophen-6-one in 15 ml of chloroform was added while vigorously stirring for 30 min at 0° C. This mixture was stirred for 15 min; then, a solution of 5.48 ml (17.1 g, 107 mmol) of bromine in 10 ml of chloroform was added dropwise over 1 h at 0° C. The resulting mixture was stirred for 1.5 h at room temperature and then poured on 200 cm3 of ice. The mixture was acidified with 4 M HCl to pH 1. The organic layer was separated, and the aqueous layer was washed with 3×100 ml of dichloromethane. The combined organic fractions were dried over K2CO3 and evaporated to dryness. The product was isolated by vacuum distillation, bp 110-112° C./2 mm Hg. Yield 22.1 g (91%).

reactant | AlCl3 | 220 mmol, 29.3 g | [Al+3].[Cl-].[Cl-].[Cl-]
reactant | 4,5-dimethyl-4,5-dihydro-6H-cyclopenta[b]thiophen-6-one | 100 mmol, 16.4 g | CC1C(C(C=2SC=CC21)=O)C | C9H10OS
reactant | bromine | 107 mmol, 5.48 ml, 17.1 g | BrBr | Br2
reactant | HCl | 4 M | Cl | ClH
solvent | chloroform | 40 ml | C(Cl)(Cl)Cl | CHCl3
solvent | chloroform | 15 ml | C(Cl)(Cl)Cl | CHCl3
solvent | chloroform | 10 ml | C(Cl)(Cl)Cl | CHCl3
product | 3-Bromo-4,5-dimethyl-4,5-dihydro-6H-cyclopenta[b]thiophen-6-one | BrC=1C2=C(SC1)C(C(C2C)C)=O | C9H9BrOS
